US04960946
A solution of 3-(3-methoxy-3-methylbut-1-yl)-5-methylcyclohexan-1-one (0.50 g, 0.0024 mol) in tetrahydrofuran (1 mL) was added to a suspension of lithium aluminum hydride (0.10 g, 0.0027 mol) in tetrahydrofuran (1 mL) cooled to 0~C. The mixture was stirred at 20~C for 16 h. Subsequent workup yielded 3-(3-methoxy-3-methylbutyl)-5-methylcyclohexanol (0.40 g) as a mixture of four diastereoisomers (ratio 2.8:15.3:79.2:2.8).

reactant | 3-(3-methoxy-3-methylbut-1-yl)-5-methylcyclohexan-1-one | 0.0024 mol, 0.50 g | COC(CCC1CC(CC(C1)C)=O)(C)C | C13H24O2
reactant | lithium aluminum hydride | 0.0027 mol, 0.10 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 3-(3-methoxy-3-methylbutyl)-5-methylcyclohexanol | 0.40 g | COC(CCC1CC(CC(C1)C)O)(C)C | C13H26O2
